US05411973
4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(pyrid-4-ylsulfonyl)phenyl]but-1-yne.
To a solution of diisopropylamine (0.37 mL, 2.66 mmol) in tetrahydrofuran (11 mL) at -20° C. was added n-butyllithium (0.9 mL of 2.5M solution in hexanes, 2.25 mmol) and the resulting solution was stirred for 25 minutes at -20° C. before being cooled to -78° C. To this was added a solution of 4-(4-pyridylsulfonyl)phenylacetylene (0.5 g, 2.05 mmol) in tetrahydrofuran (3 mL) over a five minute period. The mixture was stirred for an additional 15 minutes at -78° C. To this was added 1,1,1-trifluoroacetone (0.20 mL, 2.25 mmol) in one portion. After stirring the mixture at -78° C. for 20 minutes, it was quenched with water, warmed to ambient temperature and the pH adjusted to 7.0 with saturated aqueous NH4Cl . The solution was evaporated and the resulting residue was partitioned between water and ethyl acetate. The ethyl acetate layer was separated, washed (brine), dried and evaporated. The resulting brown oil was purified by chromatography, with ethyl acetate:dichloromethane as the eluent (1:5), to give the title compound as a white solid (0.36 g, 50%); mp 122°-125° C.; NMR (CDCl3): 1.73 (s,3, CH3), 3.37 (s,1, OH), 7.61 (d,2, J=8.2, At), 7.76 (d,2, J=5.1, Ar), 7.93 (d,2, J=4); MS: m/z=356(M+ 1). Analysis for C16H12F3NO3S: Calculated: C, 54.08; H, 3.40; N, 3.94; Found: C, 53.99; H, 3.41; N, 3.75.

reactant | diisopropylamine | 2.66 mmol, 0.37 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.25 mmol, 2.5M, 0.9 mL | C(CCC)[Li]
reactant | 4-(4-pyridylsulfonyl)phenylacetylene | 2.05 mmol, 0.5 g | N1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)C#C | C13H9NO2S
reactant | 1,1,1-trifluoroacetone | 2.25 mmol, 0.20 mL | FC(C(=O)C)(F)F | C3H3F3O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(pyrid-4-ylsulfonyl)phenyl]but-1-yne | 0.36 g, 50% | FC(C(C#CC1=CC=C(C=C1)S(=O)(=O)C1=CC=NC=C1)(C)O)(F)F | C16H12F3NO3S
